US07906521B2
2-tert-butyl-7-methoxy-1-phenylquinazolin-4(1H)-one
To a solution of 2-anilino-4-methoxybenzamide (150 mg) in 5 mL dichloroethane was added pivaloyl chloride (0.229 mL), and the reaction was heated at reflux for 7 h. The reaction was cooled and partially concentrated, then diluted with ethyl ether, and the resulting precipitate was isolated by filtration to give 180 mg of a solid product. This material was dissolved in CH2Cl2 and washed with 10% sodium carbonate. The organic solution was dried (Na2SO4) and concentrated to give the titled compound.

reactant | 2-anilino-4-methoxybenzamide | 150 mg | N(C1=CC=CC=C1)C1=C(C(=O)N)C=CC(=C1)OC | C14H14N2O2
reactant | pivaloyl chloride | 0.229 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | 2-tert-butyl-7-methoxy-1-phenylquinazolin-4(1H)-one | 180 mg | C(C)(C)(C)C=1N(C2=CC(=CC=C2C(N1)=O)OC)C1=CC=CC=C1 | C19H20N2O2
